US08492401B2
Pyrrolidine (2.8 mol, 203 g) and K2CO3 (2.8 mol, 395 g) were added to a suspension of 6-(chloromethyl)-2-(2-nitrophenyl)thiazolo[5,4-b]pyridine (0.52 mol, 175 g) in CH3CN (1.7 L). The reaction mixture was stirred at room temperature for 16 h. H2O (1 L) was added and the mixture stirred for 30 min. The CH3CN was removed under vacuum and the resulting mixture was extracted with CH2Cl2 (3×1.5 L). The combined organics were washed with brine, dried (Na2SO4) and concentrated under vacuum to give 2-(2-nitrophenyl)-6-(pyrrolidin-1-ylmethyl)thiazolo[5,4-b]pyridine as a dark oil (150 g, 76% yield).

reactant | Pyrrolidine | 2.8 mol, 203 g | N1CCCC1 | C4H9N
reactant | K2CO3 | 2.8 mol, 395 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 6-(chloromethyl)-2-(2-nitrophenyl)thiazolo[5,4-b]pyridine | 0.52 mol, 175 g | ClCC=1C=C2C(=NC1)SC(=N2)C2=C(C=CC=C2)[N+](=O)[O-] | C13H8ClN3O2S
reactant | H2O | 1 L | O | H2O
solvent | CH3CN | 1.7 L | CC#N | C2H3N
product | 2-(2-nitrophenyl)-6-(pyrrolidin-1-ylmethyl)thiazolo[5,4-b]pyridine | 150 g, 76% yield | [N+](=O)([O-])C1=C(C=CC=C1)C=1SC2=NC=C(C=C2N1)CN1CCCC1 | C17H16N4O2S
